US07192967B1
4-(2,5-dioxo-3,4-diphenyl-2,5-dihydropyrrol-1-yl)-butylamine hydrochloride
8.2 g (<18 mmol) N-[4-(2,5-dioxo-3,4-diphenyl-2,5-dihydropyr-rol-1-yl)-butyl]-carbamic acid tert-butylester are dissolved in 80 ml ethanol and heated under reflux for two hours after addition of 4.5 ml (54 mmol) concentrated hydrochloric acid. The cooled solution is concentrated under vacuum and the residue is dried under high vacuum. The accumulated crude product is further processed without further purification: Yield 6.3 g of a yellow solid.

reactant | N-[4-(2,5-dioxo-3,4-diphenyl-2,5-dihydropyr-rol-1-yl)-butyl]-carbamic acid tert-butylester | <18 mmol, 8.2 g | C(C)(C)(C)OC(NCCCCN1C(C(=C(C1=O)C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C25H28N2O4
reactant | hydrochloric acid | 54 mmol, 4.5 ml | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 4-(2,5-dioxo-3,4-diphenyl-2,5-dihydropyrrol-1-yl)-butylamine hydrochloride | Cl.O=C1N(C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCCN | InChI=1S/C20H20N2O2.ClH/c21-13-7-8-14-22-19(23)17(15-9-3-1-4-10-15)18(20(22)24)16-11-5-2-6-12-16;/h1-6,9-12H,7-8,13-14,21H2;1H
